US09079866B2
5-{3-Fluoro-2′-[(2-morpholin-4-yl-2-oxoethyl)sulfonyl]biphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared using analogous conditions to those described in Example 6 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and 2-((2-bromophenyl)sulfonyl)-1-morpholinoethanone. MS (ESI): mass calcd. for C22H21FN4O4S, 456.5; m/z found, 457.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.55 (d, J=1.4, 2H), 8.15 (dd, J=7.7, 1.3, 1H), 7.83-7.72 (m, 1H), 7.72-7.63 (m, 1H), 7.58 (dd, J=8.5, 7.7, 1H), 7.45 (dd, J=7.2, 1.2, 1H), 7.42-7.31 (m, 2H), 3.67-3.55 (m, 4H), 3.48 (t, J=4.8, 2H), 3.39 (t, J=4.8, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | 2-((2-bromophenyl)sulfonyl)-1-morpholinoethanone | BrC1=C(C=CC=C1)S(=O)(=O)CC(=O)N1CCOCC1 | C12H14BrNO4S
product | 5-{3-Fluoro-2′-[(2-morpholin-4-yl-2-oxoethyl)sulfonyl]biphenyl-4-yl}pyrimidin-2-amine | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=CC=C1)S(=O)(=O)CC(=O)N1CCOCC1 | C22H21FN4O4S
